US04279918
2-(4-aminobenzyl)-1-methylpyrrolidine
Hydrogenate 18 g of 2-(4-nitrobenzyl)-1-methylpyrrolidine in ethanol with 300 mg of platinum dioxide/hydrogen. Filter the catalyst from the reaction mixture, concentrate the latter and recrystallize the thus-produced residue from n-hexane to obtain the title compound at a yield of 12.7 g (82% of theory).

reactant | 2-(4-nitrobenzyl)-1-methylpyrrolidine | 18 g | [N+](=O)([O-])C1=CC=C(CC2N(CCC2)C)C=C1 | C12H16N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum dioxide hydrogen | 300 mg | [Pt](=O)=O.[H][H]
product | 2-(4-aminobenzyl)-1-methylpyrrolidine | NC1=CC=C(CC2N(CCC2)C)C=C1 | C12H18N2
